US05962514
(R)-8-Fluoro-3-(N-isopropyl-N-n-propylamino)-5carbamoyl-3,4-dihydro-2H-1-benzopyran
(R)-8-Fluoro-3-(N-isopropyl-N-n-propylamino)-5-trifluoromethanesulfonyloxy-3,4-dihydro-2H-1-benzopyran (2.4 g, 6.0 mmol), triethylamine (1.3 g, 12.9 mmol), 1,3-bis(diphenylphosphino)propane (95 mg, catalytic amount), palladium(II)acetate (48 mg, catalytic amount) and DMF/MeOH (30 mL, 3:1) were mixed in a 50 mL three necked round bottom flask. The flask was evacuated followed by the inlet of CO (repeated two times). The reaction mixture was stirred at 70° C. for 7.5 hours. The solvent was removed in vacuo and the residue was dissolved in diethyl ether/sat. NaHCO3. The layers were separated and the water phase was extracted once with ether. The combined ether layers were dried (MgSO4) and the solvent was removed in vacuo to give a crude which was purified by flash chromatography (SiO2, hexane/EtOAC, 9:1) to give 1.3 g of the title compound (71% yield).

reactant | (R)-8-Fluoro-3-(N-isopropyl-N-n-propylamino)-5-trifluoromethanesulfonyloxy-3,4-dihydro-2H-1-benzopyran | 6.0 mmol, 2.4 g | FC1=CC=C(C=2C[C@H](COC21)N(CCC)C(C)C)OS(=O)(=O)C(F)(F)F | C16H21F4NO4S
reactant | triethylamine | 12.9 mmol, 1.3 g | C(C)N(CC)CC | C6H15N
reactant | DMF MeOH | 30 mL | CN(C)C=O.CO
catalyst | palladium(II)acetate | 48 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis(diphenylphosphino)propane | 95 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
product | (R)-8-Fluoro-3-(N-isopropyl-N-n-propylamino)-5carbamoyl-3,4-dihydro-2H-1-benzopyran | 1.3 g, 71% yield | FC1=CC=C(C=2C[C@H](COC21)N(CCC)C(C)C)C(N)=O | C16H23FN2O2
